datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCC[N+:21]1([H:20])CCCCC1C(=O)Nc1c(C)cccc1C.O=C([O-])CCCC(=O)[N-:10]OCc1ccccc1>>CCCC[N:21]1CCCCC1C(=O)Nc1c(C)cccc1C.O=C([O-])CCCC(=O)[N:10](OCc1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)(CN)C[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)(CN)C[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCCCC[NH:10]Cc1ccc(C)cc1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CN(C)C(O)[OH+:21][H:20].COC(=O)C(Cc1c[nH]c[n:10]1)NC(C)=O>>CN(C)C(O)[OH:21].COC(=O)C(Cc1c[nH]c[n+:10]1[H:20])NC(C)=O 10=20;20,21=21",
"CN(C)/C=[N:10]\c1ccccc1[N+](=O)[O-].O=Cc1ccc([NH2+:21][H:20])cc1>>CN(C)/C=[N+:10](\c1ccccc1[N+](=O)[O-])[H:20].O=Cc1ccc([NH2:21])cc1 10=20;20,21=21",
"CCC(CO)(CO)[NH2:10].[O-]c1c2ccccc2cn[n+:21]1[H:20]>>CCC(CO)(CO)[NH2+:10][H:20].[O-]c1c2ccccc2cn[n:21]1 10=20;20,21=21",
"C=CC(C)(C)[NH:10]c1ccccc1.Cc1cc(-c2cc(C)n(C)[n+:21]2[H:20])[nH+]n1C>>C=CC(C)(C)[NH+:10](c1ccccc1)[H:20].Cc1cc(-c2cc(C)n(C)[n:21]2)[nH+]n1C 10=20;20,21=21",
"C[NH+](C)CC(C)(C)C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)CC(C)(C)C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C1Oc2c3c(cc(O)c2[O-:10])C(=O)Oc2c(O)c(O)cc1c2-3.O=[N+]([O-])c1ccc([NH2+:21][H:20])cc1>>O=C1Oc2c3c(cc(O)c2[O:10][H:20])C(=O)Oc2c(O)c(O)cc1c2-3.O=[N+]([O-])c1ccc([NH2:21])cc1 10=20;20,21=21",
"O=C([C@H]1CC[C@H](O)CC1)[O:21][H:20].O=C([O-])c1ccc([O-:10])c([N+](=O)[O-])c1>>O=C([C@H]1CC[C@H](O)CC1)[O-:21].O=C([O-])c1ccc([O:10][H:20])c([N+](=O)[O-])c1 10=20;20,21=21",
"C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N+:21](C)(C)[H:20].O[C@H]1CCCC[C@@H]1[NH2:10]>>C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N:21](C)C.O[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"COc1ccc([O:21][H:20])cc1Br.O=[N+]([O-])c1cc(Cl)ccc1C[NH2:10]>>COc1ccc([O-:21])cc1Br.O=[N+]([O-])c1cc(Cl)ccc1C[NH2+:10][H:20] 10=20;20,21=21",
"NC(CC1=C[N-:10]C(=S)N1)C(=O)[O-].Nc1c2ccccc2[nH+]c2cccc([O:21][H:20])c12>>NC(CC1=C[N:10]([H:20])C(=S)N1)C(=O)[O-].Nc1c2ccccc2[nH+]c2cccc([O-:21])c12 10=20;20,21=21",
"C1C[NH:10]CCN1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C1C[NH+:10]([H:20])CCN1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Cc1ccc(C2CCC[NH:10]2)cc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>Cc1ccc(C2CCC[NH+:10]2[H:20])cc1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Clc1cc(I)c([O:21][H:20])c2ncccc12.O=C1c2ccc(Cl)cc2C(=O)[N-:10]1>>Clc1cc(I)c([O-:21])c2ncccc12.O=C1c2ccc(Cl)cc2C(=O)[N:10]1[H:20] 10=20;20,21=21",
"CC(O)c1cccc([O-:10])c1CO.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(O)c1cccc([O:10][H:20])c1CO.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[O-:10].[NH3+]Cc1cc[n+:21]([H:20])cc1>>CC(C)[O:10][H:20].[NH3+]Cc1cc[n:21]cc1 10=20;20,21=21",
"CO[C@H]1O[C@H](C(=O)[O-:10])[C@H](O)[C@H](O)[C@H]1O.c1nc(Cc2c[nH]c(Cc3nc(Cc4c[n+:21]([H:20])c[nH]4)c[nH]3)[nH+]2)c[nH]1>>CO[C@H]1O[C@H](C(=O)[O:10][H:20])[C@H](O)[C@H](O)[C@H]1O.c1nc(Cc2c[nH]c(Cc3nc(Cc4c[n:21]c[nH]4)c[nH]3)[nH+]2)c[nH]1 10=20;20,21=21",
"C[NH2+]CCC[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH2+]CCC[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"COCc1ccc(C(=O)[O:21][H:20])cc1.O=C(CCc1c[nH]c[nH+]1)[O-:10]>>COCc1ccc(C(=O)[O-:21])cc1.O=C(CCc1c[nH]c[nH+]1)[O:10][H:20] 10=20;20,21=21",
"COc1nc[n:10]c2nccnc12.O=C([O-])CC(c1[nH]cc[nH+]1)c1[nH]cc[n+:21]1[H:20]>>COc1nc[n+:10]([H:20])c2nccnc12.O=C([O-])CC(c1[nH]cc[nH+]1)c1[nH]cc[n:21]1 10=20;20,21=21",
"C[NH:10]C.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C[NH+:10](C)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20].c1c(CN2CCNCC[NH2+]CC2)n[nH]c1CN1CCNCC[NH:10]CC1>>O=[N+]([O-])[CH-:21]SC1=CC=CC=C1.c1c(CN2CCNCC[NH2+]CC2)n[nH]c1CN1CCNCC[NH+:10]([H:20])CC1 10=20;20,21=21",
"C[NH2+]CCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH2+]CCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COC(=O)c1[nH]c2ccc(Cl)cc2[n:10]1.O=C(c1ccccc1I)[O:21][H:20]>>COC(=O)c1[nH]c2ccc(Cl)cc2[n+:10]1[H:20].O=C(c1ccccc1I)[O-:21] 10=20;20,21=21",
"CC(C)Oc1cccc(C(=O)[O:21][H:20])c1.CC(C)[NH:10]CCc1ccc([O-])cc1>>CC(C)Oc1cccc(C(=O)[O-:21])c1.CC(C)[NH+:10](CCc1ccc([O-])cc1)[H:20] 10=20;20,21=21",
"C[NH+:21](CC(O)CO)[H:20].O=S(=O)([O-])CC[N:10]1CCOCC1>>C[NH:21]CC(O)CO.O=S(=O)([O-])CC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"COc1c(C)cc2c(c1C(=O)[O-:10])COC2.N[N:21](C(=O)C(F)(F)C(F)(F)C(F)(F)F)[H:20]>>COc1c(C)cc2c(c1C(=O)[O:10][H:20])COC2.N[N-:21]C(=O)C(F)(F)C(F)(F)C(F)(F)F 10=20;20,21=21",
"O=C[N-:10]OC(=O)/C=C/c1ccccc1.[NH3+]C(c1cccc(O)c1[O:21][H:20])P(=O)([O-])[O-]>>O=C[N:10](OC(=O)/C=C/c1ccccc1)[H:20].[NH3+]C(c1cccc(O)c1[O-:21])P(=O)([O-])[O-] 10=20;20,21=21",
